US07320990B2
Biphenyl-2-ylcarbamic Acid 1-{9-[(R)-2-Hydroxy-2-(8-Hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}piperidin-4-yl Ester Naphthalene-1,5-disulfonic Acid Salt
To a 500-mL round-bottomed flask was added the crude biphenyl-2-yl-carbamic acid 1-{9-[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}piperidin-4-yl ester (16 g, 18.5 mmol) and THF (100 mL) and the resulting mixture was stirred until the compound dissolved (about 10 min). A 1M solution of tetrabutylammonium fluoride (37 μL, 37 mmol) in THF was added and the resulting mixture was stirred at 40° C. under nitrogen for 6 to 7 hours (>98% conversion by HPLC). The mixture was then cooled to 30° C., and a solution of naphthalene-1,5-disulfonic acid (4.26 g, 14.8 mmol, recrystallized from acetonitrile) in methanol (100 mL) was added. The reaction mixture was then stirred at 30° C. for 3 to 4 hours and then at room temperature for 2 hours. The resulting crystalline solid was then collected by filtration, washed with methanol (20 mL) and air dried to give the title compound as an off-white crystalline solid (8 g).

reactant | biphenyl-2-yl-carbamic acid 1-{9-[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}piperidin-4-yl ester | 18.5 mmol, 16 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCCCCCCCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C1=C2C=CC(NC2=C(C=C1)O)=O | C44H62N4O5Si
reactant | tetrabutylammonium fluoride | 37 mmol, 37 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | naphthalene-1,5-disulfonic acid | 14.8 mmol, 4.26 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Biphenyl-2-ylcarbamic Acid 1-{9-[(R)-2-Hydroxy-2-(8-Hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]nonyl}piperidin-4-yl Ester Naphthalene-1,5-disulfonic Acid Salt | 8 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.O[C@@H](CNCCCCCCCCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C38H48N4O5.C10H8O6S2/c43-34-19-17-31(32-18-20-36(45)41-37(32)34)35(44)27-39-23-11-4-2-1-3-5-12-24-42-25-21-29(22-26-42)47-38(46)40-33-16-10-9-15-30(33)28-13-7-6-8-14-28;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h6-10,13-20,29,35,39,43-44H,1-5,11-12,21-27H2,(H,40,46)(H,41,45);1-6H,(H,11,12,13)(H,14,15,16)/t35-;/m0./s1
